US03994900
a. 4-[3-(Dimethylamino)propoxy]benzeneamine
A stirred solution of 65.4g (0.60 mole) of p-aminophenol in 250 ml of dimethylformamide is treated portion-wise with 28.6g (0.60 mole) of 50% sodium hydride. The temperature is maintained below 35° C during the addition, warmed to 70° C then cooled to 25° C. The mixture is treated with 5g of sodium iodide and 476 ml of a 1.89 N toluene solution of 3-dimethylaminopropyl chloride, then heated at 100°-105° C for 3 hours. The cooled mixture is poured over 500 ml of ice and extracted with 300 ml of ether (2 times). The combined solvent fractions are shaken in a separatory funnel with 150 ml of 6 N hydrochloric acid. The basic product is obtained by treating the aqueous fraction with 200g of potassium carbonate (ether extraction). After drying, the solvent is evaporated and the residue fractionated to give 25.1g of an oil, boiling point 128°-135° C/0.2 mm of Hg. (Continuation of the distillation yields 21.9g of di-alkylated material, boiling point 135°-158° C/0.2 mm of Hg).

reactant | p-aminophenol | 0.60 mole, 65.4g | C1=CC(=CC=C1N)O | C6H7NO
reactant | sodium hydride | 0.60 mole, 28.6g | [H-].[Na+]
reactant | sodium iodide | [I-].[Na+]
reactant | 3-dimethylaminopropyl chloride | CN(CCCCl)C | C5H12ClN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | toluene | 1.89 N | C1(=CC=CC=C1)C | C7H8
product | 4-[3-(Dimethylamino)propoxy]benzeneamine | 25.1g | CN(CCCOC1=CC=C(C=C1)N)C | C11H18N2O
